US05969138
Preparation of (S)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone (Table 1; Compound No. 146; (S)-isomer)
Into 2 mL of water was dissolved 180 mg of (S)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone (S)-(+)-mandelate, and the solution was desalted with sodium carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give 120 mg of the title compound.

reactant | (S)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone (S)-(+)-mandelate | 180 mg | C([C@@H](O)C1=CC=CC=C1)(=O)O.ClC1=CC=C(C=C1)N1C([C@@H](CC1)CN1CCN(CC1)CCOC)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 mL | O | H2O
product | (S)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone | 120 mg | ClC1=CC=C(C=C1)N1C([C@@H](CC1)CN1CCN(CC1)CCOC)=O | C18H26ClN3O2
